US05597842
N-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl-2-hydroxy-1-propyl]-2,3-dihydro-1H-isoindole dihydrochloride
To a stirred mixture of 1-(3-amino-2-hydroxypropyl-4-(6-fluoro-1,2-benzisoxazol3-yl)piperidine (2.24 g, 7.6 mmol), K2CO3 (1.61 g, 11.7 mmol) in acetonitrile (100 ml) was added α,α'-dibromo-o-xylene (1.54 g, 6.1 mmol). The mixture was heated at reflux for 4 hours then cooled. The insolubles were filtered. The dark red solution was concentrated down. The residue was purified by flash chromatography over s silica gel column (SiO2, 30 g; eluted with 1% CH3OH in dichloromethane). The product so obtained weighed 940 mg as an oil. This oil was dissolved in ethanol and was treated with a solution of HCl in ethanol (188 mg of AcCl in ethanol). The dark solids were collected and recrystallized again in ethanol to yield off-white crystals (1.01 g), m.p. 240°-243° C.

reactant | 3-amino-2-hydroxypropyl-4-(6-fluoro-1,2-benzisoxazol3-yl)piperidine | 7.6 mmol, 2.24 g | NC1CN(CCC1C1=NOC2=C1C=CC(=C2)F)CC(C)O | C15H20FN3O2
reactant | K2CO3 | 11.7 mmol, 1.61 g | C(=O)([O-])[O-].[K+].[K+]
reactant | α,α'-dibromo-o-xylene | 6.1 mmol, 1.54 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | HCl | Cl | ClH
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 188 mg | C(C)O | C2H6O
product | 3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl-2-hydroxy-1-propyl]-2,3-dihydro-1H-isoindole dihydrochloride | 1.01 g | Cl.Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)C(C(C)O)C2NCC3=CC=CC=C23)C=C1 | InChI=1S/C23H26FN3O2.2ClH/c1-14(28)23(22-18-5-3-2-4-16(18)13-25-22)27-10-8-15(9-11-27)21-19-7-6-17(24)12-20(19)29-26-21;;/h2-7,12,14-15,22-23,25,28H,8-11,13H2,1H3;2*1H
